US07414061B2
d) 2-Bromo-1-(5-methoxymethyl-3-phenyl-isoxazol-4-yl)ethanone
To a solution of 5-methoxymethyl-3-phenyl-isoxazole-4-carboxylic acid chloride (11.16 g, 44 mmol) in dry ether (350 mL) was added diazomethane solution in ether (0.1 N, 100 mL) at iced-bath cooling temperature. The reaction was stirred for 2 h at 0° C. Aqueous solution of hydrobromic acid (>40 wt %, 100 mL) was then added dropwise to the reaction solution at iced-bath cooling temperature. After complete addition, the organic layer was separated, and the aqueous phase was extracted with ether. The combined ether solution was washed with water and brine, dried over magnesium sulphate and evaporated to afford the title compound (12.83 g, 94%) which was obtained as a light yellow liquid. MS: m/e=310.0/311.9 [M+H]+.

reactant | 5-methoxymethyl-3-phenyl-isoxazole-4-carboxylic acid chloride | 44 mmol, 11.16 g | COCC1=C(C(=NO1)C1=CC=CC=C1)C(=O)Cl | C12H10ClNO3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | hydrobromic acid | 100 mL | Br | BrH
solvent | ether | 350 mL | CCOCC | C4H10O
solvent | ether | 0.1 N, 100 mL | CCOCC | C4H10O
product | 2-Bromo-1-(5-methoxymethyl-3-phenyl-isoxazol-4-yl)ethanone | 12.83 g, 94% | BrCC(=O)C=1C(=NOC1COC)C1=CC=CC=C1 | C13H12BrNO3
